US07491710B2
The compound, 5-benzyloxy-3-((E)-styryl)-1H-indazole is prepared according to procedure C, step Ib, using 300 mg of 5-benzyloxy-3-iodoindazole-1-carboxylic acid tert-butyl ester, 197 mg of E-phenylethenyl boronic acid, 192 mg of palladium tetrakistriphenylphosphine in suspension in 12 ml of dimethylformamide and 0.61 ml of a saturated sodium bicarbonate solution. The resulting crude product is treated as described hereinabove to obtain 150 mg of 5-benzyloxy-3-((E)-styryl)-1H-indazole.

reactant | 5-benzyloxy-3-iodoindazole-1-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)I | C19H19IN2O3
reactant | E-phenylethenyl boronic acid | 197 mg | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | 0.61 ml | C([O-])(O)=O.[Na+]
product | 5-benzyloxy-3-((E)-styryl)-1H-indazole | 150 mg | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)\C=C\C1=CC=CC=C1 | C22H18N2O
